*******************************************************************************
* CDL netlist
*
* Library : Training
* Top Cell Name: AND layout
* View Name: extracted
* Netlist created: 06.Aug.2024 19:24:25
*******************************************************************************

*.SCALE METER
*.GLOBAL vdd gnd

*******************************************************************************
* Library Name: Training
* Cell Name:    AND layout
* View Name:    extracted
*******************************************************************************

.SUBCKT AND layout

M88 n4 n2 n3 n3 C5NPMOS w=1.615e-6 l=3e-8 as=8.8e-14 ps=3.42e-6 ad=9.4425e-14 pd=3.5e-6
M84 n1 n5 n7 n1 C5NNMOS w=2e-7 l=3e-8 as=1.5e-14 ps=5.5e-7 ad=1.5e-14 pd=5.5e-7
M89 n3 n4 n0 n3 C5NPMOS w=1.615e-6 l=3e-8 as=1.2e-13 ps=3.35e-6 ad=1.2e-13 pd=3.35e-6
M86 n1 n4 n0 n1 C5NNMOS w=2e-7 l=3e-8 as=1.5e-14 ps=5.5e-7 ad=1.5e-14 pd=5.5e-7
M85 n7 n2 n4 n1 C5NNMOS w=2e-7 l=3e-8 as=1.5e-14 ps=5.5e-7 ad=1.5e-14 pd=5.5e-7
M87 n3 n5 n4 n3 C5NPMOS w=1.615e-6 l=3e-8 as=9.4425e-14 ps=3.5e-6 ad=8.6425e-14 pd=3.48e-6
.ENDS
